US09382228B2
A suspension of 5-bromo-2-methylpyridine (0.4 g, 2.325 mmol), bis(pinacolato)diboron (0.768 g, 3.02 mmol), KOAc (0.685 g, 6.98 mmol), and PdCl2(dppf)-DCM adduct (0.114 g, 0.140 mmol) in dioxane (7.05 mL) was heated at 85° C. for 16 h. The mixture was cooled to RT, treated with EtOAc, the solids removed via filtration through diatomaceous earth and rinsed well with EtOAc. The filtrate was concentrated to dryness to afford 2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (509 mg, 100%) as a brown oil.

reactant | 5-bromo-2-methylpyridine | 2.325 mmol, 0.4 g | BrC=1C=CC(=NC1)C | C6H6BrN
reactant | bis(pinacolato)diboron | 3.02 mmol, 0.768 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 6.98 mmol, 0.685 g | CC(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 7.05 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.140 mmol, 0.114 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 509 mg, 100% | CC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO2
